US03959309
3-(Benzylmethylamino)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole
To a slurry of 1.2 g. of lithium aluminum hydride in 60 ml. of dry tetrahydrofuran was added dropwise a solution of 4.6 g. of 3-(N-methylbenzamido-6,8-difluoro-1,2,3,4-tetrahydrocarbazole in 60 ml. of dry tetrahydrofuran and when addition was complete, the mixture was refluxed for forty minutes. Ethyl acetate (15 ml.) was added, followed by 10 ml. of wet ether and, finally 5 ml. of water. The mixture was filtered and the filtrate was evaporated to dryness to give, after recrystallizations from cyclohexane and then isopropyl alcohol, 2.9 g. of 3-(benzylmethylamino)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole, m.p. 137°-139°C. A solution of 0.85 g. of this free base was treated in acetonitrile with 0.11 ml. of methyl iodide, and the solution was warmed on a steam bath for 15 minutes, cooled, and the resulting crystals were collected by filtration to give 0.65 g. of 3-(benzylmethyl-amino)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole methiodide, m.p, 235°-236°C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | N-methylbenzamido-6,8-difluoro-1,2,3,4-tetrahydrocarbazole | CN1C2=C(C=C(C=C2C=2CCCC(C12)NC(C1=CC=CC=C1)=O)F)F | C20H18F2N2O
reactant | Ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-(Benzylmethylamino)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole | C(C1=CC=CC=C1)CNC1CCC=2NC3=C(C=C(C=C3C2C1)F)F | C20H20F2N2
